Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with Chiari malformation with associated LUE weakness who 
presented from PCP office after near syncopal episode at the 
office. She went to bathroom prior to starting MD visit, and 
called daughter for help, which is unusual. Daughter noted that 
she tried to stand and was shaking, cleartly weak. Ms. ___ 
then described being lightheaded, fell into daughter's arms. Did 
not strike anything. This sensation resolved within a minute and 
she was back to baseline. 
Daughter is ___ ___ and felt that the episode should have 
resolved sooner. Ms. ___ was walked over to exam room, vitals 
and EKG done, then referred to ED.  

Denied any prodromal symptoms, denies chest pain, SOB, vertigo. 
No slurred speech, confusion, focal weakness, numbness, 
tingling, or vision changes surrounding the event or preceding 
it. Denied any recent nausea, vomiting, diarrhea, fevers, 
chills, abdomninal pain, back pain, headache, neck pain. Also 
denied any changes in appetite or PO intake over the past 
several days, though she does "eat like a bird".  

In the ED initial vitals were: 0 97.8 80 124/79 16 100%RA. Labs 
were significant for WBC 11.5 with 80% neutrophilia, UA with 
large ___, many bacteria, 17 WBC. EKG without changes, trops 
negative. Patient was given ceftriaxone 1g x1 and admitted to 
medicine. Vitals prior to transfer were: 0 98.1 92 135/50 20 97% 
RA.  
 
Past Medical History:
Lung Ca s/p lobectomy  
Gastrectomy with CCY  
R hip fracture  
Chiari malformation dx'ed ___ ___ ago with associated limited LUE 
ROM  
Sigmoid colectomy for diverticulitis  
Shingles at C1  
History of TB s/p long hospitalization in the ___ and medical 
treatment without recurrence  
Short term memory loss for "years" worsened since death of 
husband ___ ___ ago 
 
Social History:
___
Family History:
No known cardiac history.
 
Physical Exam:
Admission physical exam
Vitals - T: 98.1 BP: 149/76 HR: 87 RR: 12 02 sat: 97%RA  
GENERAL: NAD, AxOx2-3, conversant, pleasant, answers questions 
appropriately, well appearing, thin, elderly  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, dentures in place  
NECK: nontender supple neck, no LAD, JVP flat  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: crackles at L base, diminished breath sounds at R base, 
otherwise clear. breathing comfortably without use of accessory 
muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema. LUE is moved with 
the RUE, fingers with FROM bilaterally  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

Discharge physical exam
Vitals- T: 98.3 BP: 108/71 (108-148/50-71) HR: 78 RR 18 95% on 
RA
Orthostatics
General- Very pleasant, alert, oriented, no acute distress
HEENT- Sclera anicteric, MMM, oropharynx clear
Neck- supple, JVP not elevated, no LAD
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi, but decreased breath sounds on right base
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- CNs2-12 intact, motor function grossly normal

 
Pertinent Results:
Admission labs
___ 04:00PM BLOOD WBC-11.5* RBC-4.21 Hgb-12.9 Hct-39.4 
MCV-94 MCH-30.7 MCHC-32.7 RDW-13.9 Plt ___
___ 04:00PM BLOOD Neuts-80.3* Lymphs-12.7* Monos-4.6 
Eos-2.1 Baso-0.3
___ 04:00PM BLOOD Glucose-76 UreaN-18 Creat-0.8 Na-141 
K-3.7 Cl-104 HCO3-29 AnGap-12
___ 08:00AM BLOOD CK(CPK)-54
___ 04:00PM BLOOD cTropnT-<0.01
___ 08:00AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.0

Micro
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Imaging:
Chest xray:
IMPRESSION: 
In comparison with the study of ___, there is again 
hyperexpansion
of the lungs with postoperative changes with scarring in the 
right upper lobe. And the impression on the right cside of the 
lower cervical trachea is less prominent.
No evidence of acute pneumonia or vascular congestion.

Discharge labs
___ 08:00AM BLOOD WBC-6.4 RBC-4.49 Hgb-13.9 Hct-41.5 MCV-93 
MCH-31.0 MCHC-33.4 RDW-13.7 Plt ___
___ 08:00AM BLOOD Glucose-111* UreaN-13 Creat-0.8 Na-142 
K-3.6 Cl-103 HCO3-31 AnGap-12
___ 08:00AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.___ with Chiari malformation and chronic R sided weakness 
presenting with presyncopal episode/episode of weakness at 
routine MD appt as well as concern for UTI.  

# Presyncope: Etiology was very broad, neuro, vrs cardio, vrs 
infection. EKG was unchanged. Trops were negative to rule out 
cardiac etiology.. Infectious etiology was most likely given 
dirty UA.  Patient was started on ceftriaxone in the ED. 
Hypovolemia was also a possibility given daughter reported 
patient doesn't drink enough. Orthostatics negative. Most likely 
this was in the setting of a UTI.

# Positive UA: Concerning for UTI. Mild leukocytosis and 
positive UA without other systemic or localizing signs of 
infection otherwise.  

# Psychosocial: All 3 daughters involved in her care and 
discussed with ___ that though she does have a lot of 
support, will likely need more, particularly because she is 
alone at night.  

## TRANSITIONAL ISSUES
- On ciprofloxacin till morning of ___
- F/u on Urine cultures to ensure sensitive to ciprofloxacin 
(currently GNR)
- Please check urine with urine strips to see if UTI clears. If 
positive, please call Dr. ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO DAILY 
2. Vitamin D 400 UNIT PO DAILY 

 
Discharge Medications:
1. Gabapentin 300 mg PO DAILY 
2. Vitamin D 400 UNIT PO DAILY 
3. Ciprofloxacin HCl 250 mg PO Q12H Duration: 2 Days 
End date ___ AM 
RX *ciprofloxacin 250 mg 1 tablet(s) by mouth Twice a day Disp 
#*4 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Urinary tract infection
Presyncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Miss ___,

You were admitted since you got weak in your doctor's office and 
were found to have a Urinary Tract Infection. We started you on 
antibiotics. You will have 2 more days of ciprofloxacin to take. 
Please ensure you are well hydrated to avoid any fainting or 
dehydration. We also did a chest xray which showed no sign of 
pneumonia.
You will be following up with your PCP, Dr ___ in about 2 weeks 
and will also have urine strips to check for resolution of your 
UTI.

It was a pleasure taking part in your care.

Your ___ team
 
Followup Instructions:
___